US08026234B2
Compound 44: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-hydroxyethyl)piperidin-4-yl)-3-methoxybenzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 2-(4-aminopiperidin-1-yl)ethanol. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.20 (m, 1H) 1.39 (m, 3H) 1.54-1.90 (m, 10H) 2.02 (t, J=10.99 Hz, 2H) 2.38 (t, J=6.32 Hz, 2H) 2.89 (d, J=10.86 Hz, 2H) 3.31 (s, 3H) 3.49 (br. s., 2H) 3.74 (m, 1H) 3.94 (s, 3H) 4.06 (t, J=13.39 Hz, 2H) 4.45 (m, 2H) 7.47 (d, J=8.0 Hz, 1H) 7.51 (s, 1H) 7.90 (s, 1H) 8.14 (d, J=8.0 Hz, 1H) 8.21 (s, 1H) 8.26 (d, J=8.0 Hz, 1H). [M+H] calculated for C29H39F2N7O4, 588. found 588.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(4-aminopiperidin-1-yl)ethanol | NC1CCN(CC1)CCO | C7H16N2O
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-hydroxyethyl)piperidin-4-yl)-3-methoxybenzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)CCO)C=C2)OC | C29H39F2N7O4
